US07446102B2
Benzyl(2-{[N-(tert-butoxycarbonyl)-L-seryl]amino}ethyl)carbamate
627.4 mg (1.650 mmol) of HATU and 387.7 mg (3.0 mmol) of N,N-diisopropylethylamine are added to a solution of 307.8 mg (1.50 mmol) of N-(tert-butoxycarbonyl)-L-serine in 25 ml of anhydrous DMF. After stirring at RT for 15 min, 380.6 mg (1.650 mmol) of benzyl(2-aminoethyl)carbamate hydrochloride are added. The reaction mixture is stirred at RT for 15 h. The solvent is then evaporated and the residue is taken up in dichloromethane. The organic phase is washed with water, dried over magnesium sulfate and concentrated. The crude product is purified by preparative HPLC.

reactant | HATU | 1.650 mmol, 627.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3.0 mmol, 387.7 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(tert-butoxycarbonyl)-L-serine | 1.50 mmol, 307.8 mg | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | benzyl(2-aminoethyl)carbamate hydrochloride | 1.650 mmol, 380.6 mg | Cl.C(C1=CC=CC=C1)N(C(O)=O)CCN
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
product | Benzyl(2-{[N-(tert-butoxycarbonyl)-L-seryl]amino}ethyl)carbamate | C(C1=CC=CC=C1)OC(NCCNC([C@@H](NC(=O)OC(C)(C)C)CO)=O)=O | C18H27N3O6
